US04397677
Preparation of N-Methyl-N-(2,2-dimethoxyethyl)-2,6-dinitro-4-trifluoromethylaniline
4-Chloro-3,5-dinitrobenzotrifluoride (5.4 grams; 0.02 mole) dissolved in benzene was charged into a glass reaction vessel equipped with a mechanical stirrer and addition funnel. N-Methyl-N-2,2-dimethoxyethylamine (2,4 grams; 0.02 mole) and triethylamine (2.02 grams; 0.02 mole) both dissolved in benzene (50 ml) were then added dropwise with stirring. After the addition was completed stirring was continued for a period of 1 hour resulting in the formation of a precipitate. The reaction mixture was filtered to remove the acid acceptor salt and was chromatographed. The solution was then evaporated to yield a solid product. This solid was recrystallized from hexane to yield the desired product N-methyl-N-(2,2-dimethoxyethyl)-2,6-dinitro-4-trifluoroemethylaniline melting at 48° to 50° C.

reactant | 4-Chloro-3,5-dinitrobenzotrifluoride | 0.02 mole, 5.4 grams | ClC1=C(C=C(C=C1[N+](=O)[O-])C(F)(F)F)[N+](=O)[O-] | C7H2ClF3N2O4
reactant | N-Methyl-N-2,2-dimethoxyethylamine | 0.02 mole, 2,4 grams | CNCC(OC)OC | C5H13NO2
reactant | triethylamine | 0.02 mole, 2.02 grams | C(C)N(CC)CC | C6H15N
solvent | benzene | C1=CC=CC=C1 | C6H6
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | N-Methyl-N-(2,2-dimethoxyethyl)-2,6-dinitro-4-trifluoromethylaniline | CN(C1=C(C=C(C=C1[N+](=O)[O-])C(F)(F)F)[N+](=O)[O-])CC(OC)OC | C12H14F3N3O6
